US08859566B2
To a solution of 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one (0.05 g, 0.136 mmol) in THF (5 ml) under argon was added Diisopropyl ethyl amine (0.05 g, 0.407 mmol) and 1M methyl amine in THF (0.042 g, 1.36 mmol). The reaction mixture was heated at 50° C. for overnight. The reaction mixture concentrated under reduced pressure. The residue obtained was purified by column chromatography to obtain 8-(1-Benzyl-1H-pyrazol-4-yl)-2-methylamino-1-propyl-1,7-dihydro-purin-6-one (0.025 g, 51%) as a white solid.

reactant | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one | 0.136 mmol, 0.05 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)Cl | C18H17ClN6O
reactant | Diisopropyl ethyl amine | 0.407 mmol, 0.05 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl amine | 1M | CN | CH5N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.36 mmol, 0.042 g | C1CCOC1 | C4H8O
product | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-methylamino-1-propyl-1,7-dihydro-purin-6-one | 0.025 g, 51% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)NC | C19H21N7O
